T1 (net15 net1 net1 0) pfet L=7.27E-6 W=2.57E-6
C2 (net4 net5) C=6.4E-8
R3 ( net9 net2)  R=4.7E6
T4 ( net2 net2 net14 vdd!)  pfet  L=4.58E-6 W=8.72E-6
T5 ( net14 net5 vdd! vdd!)  pfet  L=4.58E-6 W=8.72E-6
T6 ( net5 net5 vdd! vdd!)  pfet  L=4.58E-6 W=8.72E-6
T7 ( net8 net2 net5 vdd!)  pfet  L=4.58E-6 W=8.72E-6
T8 (net7 net4 net4 0) pfet L=3.22E-6 W=5.25E-6
C9 (net15 vdd!) C=8.0E-5
T10 (net6 net3 net3 0) nfet L=9.90E-6 W=4.01E-6
C11 (net8 net1) C=4.6E-13
R12 ( net3 net7)  R=5.3E5
T13 ( net7 net7 0 0)  nfet  L=0.32E-6 W=3.06E-6
T14 ( vdd! net7 0 0)  nfet  L=0.32E-6 W=3.06E-6
T15 (0 net15 net15 0) pfet L=2.70E-6 W=7.04E-6
R16 (net9 net6) R=0.1E2
T17 (net9 net12 net12 0) nfet L=5.30E-6 W=6.28E-6
T18 (net10 net12 net12 0) pfet L=7.52E-6 W=7.14E-6
C19 (net13 net15) C=1.3E-10
R20 (net4 net13) R=9.1E2
T21 (net11 net11 net11 0) nfet L=1.81E-6 W=7.94E-6
T22 (net1 net9 net9 0) nfet L=8.55E-6 W=2.01E-6
R23 (net9 net3) R=8.8E6
T24 (net17 net6 net6 0) nfet L=4.54E-6 W=4.44E-6
T25 (net13 net12 net12 0) pfet L=3.51E-6 W=4.92E-6
C26 (net16 net6) C=9.6E-5
T27 (net11 0 0 0) pfet L=2.49E-6 W=2.37E-6
T28 (net4 net12 net12 0) nfet L=5.82E-6 W=7.91E-6
R29 (net3 net4) R=8.0E5
R30 (net4 net13) R=3.8E3
R31 (net8 net15) R=2.7E1
C32 (net9 net3) C=0.4E-6
C33 (net6 net3) C=5.6E-13
T34 (net4 net10 net10 0) nfet L=8.53E-6 W=2.33E-6
R35 (0 net12) R=4.8E1
T36 (net6 net8 net8 0) pfet L=3.74E-6 W=9.93E-6
C37 (net15 vdd!) C=3.9E-14
C38 (net16 net12) C=6.9E-7
C39 (net6 vdd!) C=7.1E-9
T40 (net6 net17 net17 0) nfet L=2.88E-6 W=6.38E-6
T41 (net11 net12 net12 0) pfet L=5.39E-6 W=7.71E-6
T42 (net15 0 0 0) pfet L=0.94E-6 W=8.44E-6
C43 (net13 net16) C=8.1E-13
T44 (net3 net12 net12 0) nfet L=5.39E-6 W=4.19E-6
T45 (net6 net11 net11 0) pfet L=5.16E-6 W=2.76E-6
T46 (net11 net8 net8 0) nfet L=1.19E-6 W=0.27E-6
T47 (net16 net1 net1 0) pfet L=3.53E-6 W=6.21E-6

