R1 ( net19 net22)  R=4.2E0
T2 ( net22 net8 vdd! vdd!)  pfet  L=8.35E-6 W=0.93E-6
T3 ( net6 net8 vdd! vdd!)  pfet  L=8.35E-6 W=0.93E-6
T4 ( 0 net22 net8 vdd!)  pfet  L=8.35E-6 W=0.93E-6
T5 (0 net3 net3 0) pfet L=8.22E-6 W=9.28E-6
R6 ( net26 net27)  R=3.9E5
T7 ( net27 net7 0 0)  nfet  L=7.69E-6 W=0.67E-6
T8 ( net5 net7 0 0)  nfet  L=7.69E-6 W=0.67E-6
T9 ( net26 net27 net5 0)  nfet  L=7.69E-6 W=0.67E-6
R10 (net6 net15) R=2.7E3
T11 (net1 vdd! vdd! 0) nfet L=3.13E-6 W=8.79E-6
R12 (net24 net9) R=2.1E2
R13 (net1 net23) R=3.5E1
T14 (net17 net14 net14 0) nfet L=9.82E-6 W=9.63E-6
C15 (net12 net3) C=9.5E-13
T16 (net6 net24 net24 0) nfet L=0.94E-6 W=7.81E-6
T17 (net11 net13 net13 0) pfet L=9.76E-6 W=3.43E-6
T18 (net3 net1 net1 0) pfet L=2.69E-6 W=6.41E-6
T19 (net16 net4 net4 0) nfet L=4.41E-6 W=9.57E-6
T20 (net24 net23 net23 0) pfet L=3.83E-6 W=8.98E-6
T21 (net24 net23 net23 0) nfet L=0.30E-6 W=2.39E-6
C22 (net17 net26) C=7.5E-5
T23 (net9 net23 net23 0) pfet L=0.20E-6 W=2.10E-6

