T1 (vdd! net140 net140 0) pfet L=3.91E-6 W=5.06E-6
R2 ( net109 net178)  R=2.1E0
T3 ( net178 net178 net32 vdd!)  pfet  L=2.77E-6 W=7.87E-6
T4 ( net32 net52 vdd! vdd!)  pfet  L=2.77E-6 W=7.87E-6
T5 ( net52 net52 vdd! vdd!)  pfet  L=2.77E-6 W=7.87E-6
T6 ( net156 net178 net52 vdd!)  pfet  L=2.77E-6 W=7.87E-6
T7 (net139 net76 net76 0) nfet L=2.54E-6 W=6.38E-6
R8 ( net119 net97)  R=8.0E3
T9 ( net97 net97 0 0)  nfet  L=5.93E-6 W=9.26E-6
T10 ( net77 net97 0 0)  nfet  L=5.93E-6 W=9.26E-6
T11 (net166 net146 net146 0) pfet L=9.73E-6 W=8.32E-6
R12 (net44 net60) R=7.2E6
T13 (vdd! net171 net171 0) nfet L=0.87E-6 W=9.72E-6
R14 (net175 net123) R=9.5E6
T15 (net63 net58 net58 0) pfet L=0.22E-6 W=6.52E-6
T16 (net12 net9 net9 0) pfet L=1.87E-6 W=6.42E-6
T17 (net55 net11 net11 0) nfet L=7.88E-6 W=0.44E-6
R18 (net149 net121) R=3.0E2
C19 (net173 net113) C=5.4E-14
T20 (net51 net135 net135 0) pfet L=1.06E-6 W=4.41E-6
T21 (net69 net8 net8 0) pfet L=5.04E-6 W=1.83E-6
T22 (net36 0 0 0) pfet L=3.33E-6 W=5.58E-6
T23 (net123 vdd! vdd! 0) nfet L=3.99E-6 W=7.25E-6
R24 (net130 net89) R=7.5E4
C25 (net59 net131) C=8.9E-6
T26 (net85 net174 net174 0) nfet L=5.84E-6 W=4.06E-6
T27 (0 net45 net45 0) pfet L=0.52E-6 W=8.69E-6
T28 (net118 vdd! vdd! 0) nfet L=6.96E-6 W=5.66E-6
T29 (net29 net8 net8 0) nfet L=1.92E-6 W=5.32E-6
T30 (net121 net88 net88 0) nfet L=3.82E-6 W=0.92E-6
T31 (net172 net148 net148 0) pfet L=9.40E-6 W=4.08E-6
T32 (net3 net163 net163 0) nfet L=5.87E-6 W=4.91E-6
R33 (net122 net120) R=1.1E0
T34 (net42 net115 net115 0) pfet L=8.52E-6 W=8.46E-6
C35 (net26 net34) C=9.2E-5
T36 (vdd! net107 net107 0) pfet L=1.54E-6 W=9.00E-6
T37 (net30 0 0 0) nfet L=9.15E-6 W=0.96E-6
R38 (net86 net99) R=6.6E1
T39 (net167 net70 net70 0) pfet L=2.57E-6 W=5.23E-6
T40 (net31 net31 net31 0) pfet L=7.35E-6 W=8.43E-6
C41 (net112 net113) C=6.4E-7
T42 (net151 net56 net56 0) nfet L=5.00E-6 W=5.52E-6
R43 (net170 net119) R=5.8E5
T44 (net50 net133 net133 0) nfet L=9.81E-6 W=1.58E-6
T45 (net158 net28 net28 0) nfet L=6.29E-6 W=9.41E-6
R46 (net4 net114) R=4.4E0
R47 (net104 vdd!) R=5.0E2
R48 (net82 net115) R=4.3E1
C49 (net19 net138) C=1.1E-5
R50 (net143 net171) R=2.5E3
R51 (net74 net36) R=9.6E2
C52 (0 net8) C=9.3E-10
R53 (net19 net84) R=3.2E1
R54 (net46 net81) R=3.7E1
T55 (net112 net119 net119 0) pfet L=7.83E-6 W=0.98E-6
C56 (net153 net168) C=1.5E-9
T57 (net99 net161 net161 0) nfet L=1.51E-6 W=1.82E-6
C58 (net33 0) C=9.2E-8
R59 (net85 net151) R=7.1E5
C60 (net123 net86) C=3.1E-12
C61 (net153 vdd!) C=5.9E-7
T62 (net176 net152 net152 0) nfet L=6.52E-6 W=1.20E-6
T63 (0 net73 net73 0) nfet L=1.18E-6 W=0.55E-6
C64 (net36 net180) C=2.5E-5
T65 (net128 net158 net158 0) pfet L=7.54E-6 W=3.67E-6
R66 (net169 0) R=5.5E4
R67 (net43 0) R=7.8E1
T68 (vdd! net84 net84 0) nfet L=8.02E-6 W=6.20E-6
T69 (net40 net128 net128 0) pfet L=0.46E-6 W=8.12E-6
C70 (net114 net153) C=3.7E-6
C71 (net22 net13) C=2.9E-7
R72 (net175 net10) R=5.0E2
C73 (net151 net38) C=3.7E-6
T74 (net21 net170 net170 0) nfet L=4.10E-6 W=1.19E-6
C75 (net28 net173) C=9.7E-7
C76 (net48 net41) C=7.5E-6
C77 (net142 net166) C=6.0E-13
T78 (net3 net103 net103 0) nfet L=7.05E-6 W=4.00E-6
T79 (net91 0 0 0) nfet L=8.87E-6 W=8.98E-6
T80 (net14 net165 net165 0) pfet L=4.73E-6 W=7.29E-6
T81 (net110 net10 net10 0) nfet L=2.19E-6 W=7.63E-6
C82 (0 net56) C=5.7E-13
C83 (net92 vdd!) C=3.8E-12
C84 (net9 net76) C=9.4E-10
R85 (net67 net24) R=4.9E2
T86 (vdd! net49 net49 0) pfet L=1.80E-6 W=8.80E-6
T87 (net60 net130 net130 0) nfet L=2.60E-6 W=6.67E-6
T88 (net49 net62 net62 0) nfet L=5.39E-6 W=5.21E-6
R89 (net100 net56) R=2.1E5
T90 (net89 net152 net152 0) pfet L=3.78E-6 W=2.65E-6
C91 (net12 0) C=4.4E-9
C92 (net16 net132) C=3.8E-8
C93 (net149 net41) C=3.4E-14
T94 (net70 net16 net16 0) nfet L=7.76E-6 W=4.83E-6
T95 (0 net16 net16 0) pfet L=2.64E-6 W=4.50E-6
T96 (net83 net77 net77 0) nfet L=7.54E-6 W=2.74E-6
T97 (net93 net73 net73 0) pfet L=4.27E-6 W=7.40E-6
T98 (net54 net96 net96 0) pfet L=1.86E-6 W=2.84E-6
T99 (net129 net82 net82 0) nfet L=1.12E-6 W=8.94E-6
T100 (net135 net40 net40 0) nfet L=9.76E-6 W=5.17E-6
T101 (net117 net136 net136 0) nfet L=3.47E-6 W=2.23E-6
T102 (net61 vdd! vdd! 0) pfet L=3.76E-6 W=4.12E-6
C103 (net147 0) C=7.7E-5
T104 (net64 net89 net89 0) nfet L=1.67E-6 W=7.35E-6
T105 (net88 net137 net137 0) nfet L=6.27E-6 W=4.58E-6
C106 (vdd! net75) C=5.8E-5
C107 (net128 net104) C=1.4E-7
T108 (net54 net102 net102 0) nfet L=7.17E-6 W=0.11E-6
C109 (net180 net123) C=5.8E-14
T110 (net74 net181 net181 0) pfet L=8.77E-6 W=3.69E-6
T111 (net103 net87 net87 0) nfet L=1.94E-6 W=7.67E-6
T112 (net149 net93 net93 0) pfet L=3.57E-6 W=7.64E-6
T113 (net133 net119 net119 0) pfet L=4.83E-6 W=0.93E-6
T114 (vdd! net140 net140 0) nfet L=4.19E-6 W=8.59E-6
R115 (net166 vdd!) R=3.3E3
T116 (net10 net25 net25 0) pfet L=4.23E-6 W=4.29E-6
C117 (net96 net10) C=3.6E-8
C118 (net173 0) C=5.0E-9
T119 (net66 net106 net106 0) pfet L=9.50E-6 W=7.73E-6
C120 (net94 net131) C=1.6E-7
T121 (net95 net124 net124 0) nfet L=2.67E-6 W=3.66E-6
C122 (net128 net131) C=5.4E-12
C123 (net113 net171) C=1.2E-11
R124 (net1 net76) R=1.6E2
C125 (net85 net38) C=2.9E-14
T126 (net114 net40 net40 0) nfet L=0.43E-6 W=2.89E-6
R127 (net152 net106) R=7.1E2
C128 (net43 net73) C=8.2E-5
T129 (net181 net129 net129 0) pfet L=4.91E-6 W=1.35E-6
T130 (net93 net73 net73 0) nfet L=7.10E-6 W=1.30E-6
C131 (net109 net156) C=3.8E-6
C132 (net117 net6) C=4.8E-11
T133 (net162 net53 net53 0) nfet L=0.64E-6 W=2.38E-6
R134 (net144 net94) R=9.7E4
T135 (net167 net139 net139 0) pfet L=9.34E-6 W=6.88E-6
C136 (net100 net11) C=8.1E-8
T137 (net150 net155 net155 0) nfet L=7.75E-6 W=7.83E-6
T138 (net72 net166 net166 0) pfet L=6.74E-6 W=1.04E-6
C139 (0 net155) C=3.8E-5
R140 (net148 net38) R=7.7E3
C141 (net88 net116) C=8.0E-7
T142 (net118 net148 net148 0) nfet L=3.71E-6 W=3.04E-6
T143 (net33 net72 net72 0) pfet L=5.45E-6 W=1.73E-6
C144 (0 net79) C=4.5E-7
C145 (net79 net53) C=4.0E-8
T146 (net72 net24 net24 0) pfet L=0.50E-6 W=1.87E-6
T147 (net17 net37 net37 0) nfet L=8.86E-6 W=1.33E-6
R148 (net176 0) R=9.3E4
C149 (net112 net113) C=3.4E-5
C150 (net59 net117) C=5.3E-6
C151 (net45 net48) C=1.9E-9
T152 (net77 net179 net179 0) pfet L=1.30E-6 W=3.11E-6
T153 (net145 net134 net134 0) nfet L=5.54E-6 W=5.74E-6
C154 (vdd! net33) C=3.9E-10
R155 (net46 net167) R=7.5E6
C156 (vdd! net130) C=9.6E-8
C157 (net176 net63) C=9.5E-14
R158 (net173 net181) R=9.7E1
T159 (net127 net55 net55 0) pfet L=4.72E-6 W=7.77E-6
T160 (net156 net176 net176 0) nfet L=0.64E-6 W=0.95E-6
T161 (net171 net39 net39 0) nfet L=4.31E-6 W=0.69E-6
C162 (vdd! net58) C=8.1E-13
T163 (net181 net66 net66 0) nfet L=5.24E-6 W=7.44E-6
T164 (net157 net73 net73 0) nfet L=2.32E-6 W=1.49E-6
T165 (net158 vdd! vdd! 0) nfet L=5.86E-6 W=7.55E-6
T166 (net35 net137 net137 0) nfet L=7.94E-6 W=2.46E-6
T167 (net103 net66 net66 0) nfet L=3.12E-6 W=7.81E-6
C168 (net149 vdd!) C=7.2E-14
C169 (net70 net81) C=0.9E-12
R170 (net59 net174) R=4.1E1
T171 (net177 net7 net7 0) nfet L=3.66E-6 W=2.38E-6
R172 (vdd! net131) R=6.0E6
T173 (vdd! net78 net78 0) pfet L=2.66E-6 W=8.07E-6
T174 (net76 net172 net172 0) pfet L=2.80E-6 W=2.07E-6
T175 (net71 0 0 0) pfet L=8.20E-6 W=1.98E-6
T176 (net175 0 0 0) pfet L=2.34E-6 W=6.86E-6
T177 (net151 net88 net88 0) nfet L=5.22E-6 W=2.62E-6
T178 (net18 vdd! vdd! 0) pfet L=5.88E-6 W=2.09E-6
T179 (net33 net173 net173 0) nfet L=2.98E-6 W=8.47E-6
R180 (net164 net83) R=6.0E3
T181 (net124 net160 net160 0) nfet L=2.36E-6 W=0.22E-6
R182 (net51 net93) R=1.5E1
C183 (net160 0) C=5.7E-6
C184 (0 net11) C=8.7E-10
T185 (net169 net46 net46 0) nfet L=5.32E-6 W=1.10E-6
C186 (net83 net27) C=9.9E-6
T187 (net158 0 0 0) pfet L=6.25E-6 W=2.59E-6
C188 (net100 net172) C=5.3E-5
C189 (net57 net24) C=4.1E-13
T190 (net62 net121 net121 0) pfet L=3.93E-6 W=9.55E-6
T191 (net102 net146 net146 0) nfet L=5.30E-6 W=5.18E-6
C192 (net65 net148) C=4.1E-7
C193 (net121 net125) C=3.4E-14
R194 (net29 net115) R=0.8E4
R195 (vdd! net101) R=0.2E4
C196 (net46 net27) C=7.9E-13
T197 (net45 net110 net110 0) nfet L=3.69E-6 W=5.33E-6
T198 (net42 net159 net159 0) nfet L=3.95E-6 W=7.83E-6
T199 (net164 net66 net66 0) pfet L=0.72E-6 W=0.58E-6
T200 (net81 net179 net179 0) pfet L=7.98E-6 W=5.56E-6
T201 (net117 net48 net48 0) pfet L=6.28E-6 W=9.95E-6
T202 (net67 net171 net171 0) nfet L=2.55E-6 W=8.44E-6
C203 (net18 net181) C=1.5E-5
T204 (net155 net165 net165 0) nfet L=4.99E-6 W=4.02E-6
T205 (net71 net60 net60 0) pfet L=6.55E-6 W=3.69E-6
T206 (net11 vdd! vdd! 0) pfet L=5.29E-6 W=6.48E-6
T207 (net56 net27 net27 0) pfet L=5.98E-6 W=1.74E-6
C208 (net125 net109) C=0.5E-6
R209 (net142 net25) R=6.8E0
C210 (net128 net84) C=8.5E-13
C211 (net69 net126) C=1.1E-6
R212 (net139 net56) R=1.8E4
R213 (net167 vdd!) R=0.7E0
T214 (net91 net117 net117 0) pfet L=1.64E-6 W=2.34E-6
T215 (net50 net133 net133 0) nfet L=6.74E-6 W=4.72E-6
T216 (0 net3 net3 0) nfet L=2.00E-6 W=8.72E-6
T217 (net139 net128 net128 0) nfet L=1.61E-6 W=2.70E-6
T218 (net147 net105 net105 0) nfet L=8.32E-6 W=8.80E-6
T219 (net74 net77 net77 0) pfet L=0.25E-6 W=1.35E-6
C220 (net173 net31) C=7.9E-13
R221 (net102 net38) R=6.1E5
R222 (net132 0) R=4.4E6
T223 (vdd! net146 net146 0) pfet L=2.35E-6 W=4.70E-6
R224 (net152 net56) R=2.0E5
R225 (net162 net149) R=9.6E3
C226 (net105 net34) C=3.9E-7
R227 (net180 net149) R=2.1E2
T228 (net155 net67 net67 0) pfet L=2.06E-6 W=6.74E-6
T229 (net81 net168 net168 0) pfet L=4.63E-6 W=8.66E-6
C230 (net159 net44) C=8.2E-11
R231 (net75 net113) R=3.3E0
T232 (net127 0 0 0) nfet L=4.16E-6 W=8.99E-6
C233 (net115 net70) C=2.0E-8
T234 (net5 net149 net149 0) nfet L=7.79E-6 W=1.40E-6
T235 (net80 net88 net88 0) pfet L=2.20E-6 W=7.06E-6
T236 (net47 net17 net17 0) nfet L=1.26E-6 W=7.26E-6
C237 (net2 vdd!) C=3.2E-9
T238 (net59 net48 net48 0) pfet L=3.63E-6 W=7.22E-6
T239 (net24 net28 net28 0) nfet L=4.34E-6 W=5.91E-6
C240 (net122 net55) C=9.1E-12
T241 (net122 net1 net1 0) nfet L=4.88E-6 W=4.61E-6
R242 (net73 net113) R=6.0E5
R243 (net10 net34) R=2.3E0
R244 (net64 net104) R=9.9E2
T245 (net137 net112 net112 0) nfet L=8.52E-6 W=8.15E-6
R246 (vdd! net11) R=6.3E0
T247 (net75 net21 net21 0) pfet L=1.41E-6 W=8.56E-6
T248 (net130 net125 net125 0) nfet L=3.85E-6 W=9.61E-6
T249 (net57 net44 net44 0) nfet L=7.36E-6 W=5.63E-6
C250 (net167 net105) C=1.9E-9
T251 (net8 net59 net59 0) pfet L=2.91E-6 W=5.10E-6
C252 (net147 net168) C=3.6E-9
C253 (net33 net172) C=3.9E-10
T254 (net82 net80 net80 0) pfet L=6.79E-6 W=3.37E-6
T255 (net24 net2 net2 0) pfet L=8.21E-6 W=5.77E-6
R256 (net114 vdd!) R=2.3E4
T257 (net95 net88 net88 0) pfet L=6.72E-6 W=9.68E-6
C258 (net25 net167) C=7.9E-11
C259 (net64 net113) C=9.7E-6
C260 (net113 net91) C=1.7E-5
T261 (0 0 0 0) pfet L=1.57E-6 W=8.97E-6
T262 (vdd! net98 net98 0) nfet L=2.25E-6 W=6.63E-6
C263 (net17 net138) C=8.5E-12
T264 (net152 net101 net101 0) nfet L=5.13E-6 W=3.01E-6
R265 (net63 0) R=8.2E0
C266 (net174 net162) C=9.7E-6
R267 (net31 net54) R=4.4E2
T268 (net153 net93 net93 0) nfet L=6.26E-6 W=4.09E-6
C269 (net26 net181) C=3.2E-8
T270 (net54 net136 net136 0) nfet L=0.52E-6 W=9.32E-6
C271 (net116 net63) C=9.8E-13
C272 (net150 net68) C=7.9E-14
T273 (net98 net141 net141 0) nfet L=5.23E-6 W=9.71E-6
R274 (net11 net75) R=1.6E4
R275 (net21 net179) R=2.2E0
T276 (net98 net115 net115 0) pfet L=4.82E-6 W=6.29E-6
R277 (vdd! net73) R=7.3E4
R278 (net114 net165) R=7.6E4
T279 (net88 net29 net29 0) nfet L=6.66E-6 W=0.28E-6
T280 (net95 net92 net92 0) pfet L=8.10E-6 W=5.83E-6
T281 (net136 net177 net177 0) nfet L=6.28E-6 W=5.34E-6
T282 (net66 net31 net31 0) nfet L=1.45E-6 W=3.67E-6
T283 (net163 vdd! vdd! 0) pfet L=7.21E-6 W=3.53E-6
C284 (vdd! net112) C=1.3E-12
T285 (0 net166 net166 0) pfet L=3.96E-6 W=2.13E-6
R286 (net41 net12) R=0.7E1
T287 (net8 vdd! vdd! 0) pfet L=5.35E-6 W=3.50E-6
T288 (net131 net94 net94 0) pfet L=4.81E-6 W=8.99E-6
C289 (net60 net43) C=8.2E-13
C290 (net61 net147) C=8.7E-8
R291 (net108 net7) R=7.5E4
T292 (net147 net136 net136 0) nfet L=4.00E-6 W=8.07E-6
C293 (net145 net138) C=6.5E-6
T294 (net96 net176 net176 0) nfet L=4.59E-6 W=7.05E-6
R295 (net170 net25) R=1.0E6
T296 (net152 0 0 0) nfet L=4.78E-6 W=8.57E-6
C297 (net16 net150) C=8.7E-5
R298 (vdd! net50) R=2.3E6
C299 (net167 net31) C=8.3E-12

